US07214798B2
2.1. 2-[1-(1-Isoquinolyl)-4-piperidyl]ethanol
4.17 g (25.50 mmol) of 1-chloroisoquinoline, 3.62 g (28 mmol) of 2-(4-piperidyl)ethanol, 5.90 g (61.20 mmol) of sodium tert-butoxide and 0.476 g (0.765 mmol) of BINAP (2,2′-bis(diphenylphosphino)-1,1′-binaphthyl) suspended in 50 ml of toluene are introduced under an inert atmosphere. 0.233 g (0.255 mmol) of tris(dibenzylideneacetone)dipalladium is then added. The reaction mixture is then refluxed for 12 hours.

reactant | 1-chloroisoquinoline | 25.50 mmol, 4.17 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | 2-(4-piperidyl)ethanol | 28 mmol, 3.62 g | N1CCC(CC1)CCO | C7H15NO
reactant | sodium tert-butoxide | 61.20 mmol, 5.90 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.765 mmol, 0.476 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.255 mmol, 0.233 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[1-(1-Isoquinolyl)-4-piperidyl]ethanol | C1(=NC=CC2=CC=CC=C12)N1CCC(CC1)CCO | C16H20N2O
